US06127357
1-(2-(2-Quinolinylamino)ethyl)-4-(2-methoxyphenyl)piperazine
1-(2-aminoethyl)-4-(2-methoxyphenyl)piperazine (9.4 g, 40 mmol) and 2-chloroquinoline (6.5 g, 40 mmol) were heated at 160° C. for 3 h, then at 120° C. for 18 h in a sealed vessel. The resultant brown tar was taken up into dilute hydrochloric acid (300 ml), washed with dichloromethane (3×100 ml) basified with sodium hydroxide, extracted into dichloromethane (3×100 ml), dried (MgSO4) then evaporated in vacuo to give a brown oil. The oil was purified by chromatography [alumina; ethyl acetate-toluene (1:4)] to give the product (1.8 g) as a clear oil.

reactant | 1-(2-aminoethyl)-4-(2-methoxyphenyl)piperazine | 40 mmol, 9.4 g | NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H21N3O
reactant | 2-chloroquinoline | 40 mmol, 6.5 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
solvent | hydrochloric acid | 300 ml | Cl | ClH
product | 1-(2-(2-Quinolinylamino)ethyl)-4-(2-methoxyphenyl)piperazine | 1.8 g | N1=C(C=CC2=CC=CC=C12)NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C22H26N4O
